Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Non-healing wound of R ___ toe amputation site
 
Major Surgical or Invasive Procedure:
RLE diagnostic angiogram
 
History of Present Illness:
Ms. ___ is a ___ yo female with DM, ESRD on PD, and 
multi-vessel
CAD s/p NSTEMI in ___ here for management of poorly healing 
R
first toe amp site. Patient has a history of L BKA and a right
fem-AK pop bypass and underwent R first toe amp for a 
non-healing
ulcer. The ulcer had been slow to heal and patient underwent an
angio in ___ that demonstrated a patent RLE bypass.
However, patient has continued to have poor wound healing and
this raised concern about the patency of her graft. She presents
today for RLE angiogram in the management of this wound. Of 
note,
patient was evaluated by cardiac surgery for her multivessel CAD
and was deemed a poor surgical condition with recommendations 
for
continued medical management.

ROS:
(+) per HPI
(-) Denies pain, fevers chills, weakness, paresthesias, nausea,
vomiting, chest pain, shortness of breath, cough, edema, urinary
frequency, urgency
 
Past Medical History:
Past Medical History:
Congestive Heart Failure
Coronary Artery Disease
Depression
Diabetes Mellitus
Diabetic Retinopathy
End-Stage Renal Disease on Peritoneal Dialysis
Hypertension
Hypothyroid
Obesity
Peripheral Vascular Disease

Past Surgical History:
cardiac catherization (___)
Revision of first toe amputation with excision of metatarsal 
head
___.
Left below-knee amputation, ___.
Left transmetatarsal amputation, ___.
Right groin wound exploration, irrigation, debridement, and VAC
placement ___.
Excisional debridement with irrigation and VAC placement,
___.
Debridement of the infected wound, ___.
Right groin exploration. Right femoral-to-above knee popliteal
bypass with polytetrafluoroethylene, ___.
Bilateral iliac vs femoral stents - details unknown, ___.
Retinal Hemorrhage Ablation.
Left Upper Extremity AV Fistula, ___.
Cholecystectomy, ___.
C-Section, ___.
 
Social History:
___
Family History:
Grandmother - died of myocardial infarction at age ___
Grandfather - history of CABG, alive, age ___
Siblings - apparently healthy
 
Physical Exam:
ADMISSION PE:
GEN: A&O, NAD, obese
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress
ABD: Soft, nondistended, nontender
Ext: L BKA wound healed well. R first toe with small amount of
drainage from amp site. NO erythema or drainage from wound. 
Pulse exam: Palpable femoral pulses bilaterally. Doppler signals
in DP and ___ in right foot.

DISCHARGE PE:
97.8   64   112/58   20   96RA   FSBG 78-226
Gen: A&Ox3, NAD
CV: RRR
Pulm: breathing comfortably
Abd: obese, soft, NT, ND
Ext: L BKA, R first toe amputation with thick scab over wound 
without drainage or erythema
      Fem     ___   DP
L      P      --   --
R      P      D    D
 
Pertinent Results:
___ 08:55PM BLOOD WBC-7.8 RBC-2.65* Hgb-8.5* Hct-26.3* 
MCV-99* MCH-32.1* MCHC-32.3 RDW-17.7* RDWSD-64.8* Plt ___
___ 07:20AM BLOOD WBC-8.0 RBC-2.75* Hgb-8.6* Hct-27.4* 
MCV-100* MCH-31.3 MCHC-31.4* RDW-17.9* RDWSD-65.5* Plt ___
___ 08:55PM BLOOD Glucose-244* UreaN-74* Creat-9.8* Na-126* 
K-4.4 Cl-87* HCO3-20* AnGap-23*
___ 07:20AM BLOOD Glucose-193* UreaN-71* Creat-9.3* Na-128* 
K-4.8 Cl-87* HCO___ AnGap-23*
___ 08:55PM BLOOD ___ PTT-35.7 ___
___ 08:55PM BLOOD Calcium-7.0* Phos-9.3*# Mg-1.8
___ 07:20AM BLOOD Calcium-7.0* Phos-9.2* Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ yo female with non-healing wound at right ___ 
toe amputation site who was admitted to the ___ 
___ on ___ for prehydration. The patient 
was taken to the endovascular suite on ___ and underwent RLE 
angiogram. For details of the procedure, please see the 
surgeon's operative note. The patient tolerated the procedure 
well without complications and was brought to the 
post-anesthesia care unit in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where she remained through the rest of the hospitalization.

Post-operatively, she did well without any groin swelling. 
Nephrology was consulted regarding her peritoneal dialysis and 
she received treatments while in house. Phosphate levels were 
found to be elevated. Per nephrology recommendations, calcitriol 
was stopped and patient was started on PhosLo 1334mg TID with 
meals. She was able to tolerate a regular diet, get out of bed 
and ambulate without assistance, void without issues, and pain 
was controlled on oral medications alone. She was deemed ready 
for discharge, and was given the appropriate discharge and 
follow-up instructions.

ANTIBIOTICS: None
ANTICOAGULATION: None
ANTIPLATELET: Aspirin and Plavix lifelong 
WEIGHTBEARING: may bear weight on right leg, avoid exercise and 
heavy lifting for 1 week

MEDICATION CHANGES:
1. Calcitriol stopped due to high phos
2. Discharged with PhosLo 1334mg TID with meal due to high phos
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Calcitriol 0.25 mcg PO DAILY 
6. Citalopram 20 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Lisinopril 40 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Nephrocaps 1 CAP PO DAILY 
12. Omeprazole 20 mg PO BID 
13. Pregabalin 25 mg PO BID 
14. Ropinirole 0.25 mg PO QHS 
15. sevelamer CARBONATE 3200 mg PO TID W/MEALS 
16. Clopidogrel 75 mg PO DAILY 
17. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
18. Furosemide 80 mg PO DAILY 
19. Lactobacillus acidophilus    ORAL DAILY 
20. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
21. Humalog 15 Units Breakfast
Humalog 30 Units Dinner
NPH 30 Units Breakfast
NPH 30 Units Bedtime

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Humalog 15 Units Breakfast
Humalog 30 Units Dinner
NPH 30 Units Breakfast
NPH 30 Units Bedtime
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
10. Levothyroxine Sodium 50 mcg PO DAILY 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Nephrocaps 1 CAP PO DAILY 
13. Omeprazole 20 mg PO BID 
14. Pregabalin 25 mg PO BID 
15. Ropinirole 0.25 mg PO QHS 
16. sevelamer CARBONATE 3200 mg PO TID W/MEALS 
17. Furosemide 80 mg PO DAILY 
18. Lactobacillus acidophilus    ORAL DAILY 
19. Lisinopril 40 mg PO DAILY 
20. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
21. Calcium Acetate 1334 mg PO TID W/MEALS 
RX *calcium acetate 667 mg 2 tablet(s) by mouth TID with meals 
Disp #*45 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non-healing right foot ulcer 
s/p RLE angiography
PVD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Uses prosthesis on RLE
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   The procedure did find 
that you have poor blood flow to your right leg, and Dr. 
___ is recommending a procedure to improve the circulation 
to this leg. You will be contacted about scheduling this 
procedure. 

You tolerated the procedure well and are now ready to be 
discharged from the hospital.   Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery. Please resume your dialysis treatments as you have 
been doing prior to this admission.

Sincerely, 
Your ___ Care Team

Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 

Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___